US08871934B2
(+)-2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propane-1,3-diol
To a mixture of ethanol (80 ml) and sodium borohydride (16.2 g), a solution of an optically active form (13.2 g) of ethyl 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-oxo-propionate in tetrahydrofuran (80 ml) was added dropwise over 25 min. At this time, the temperature of the reaction mixture was controlled with an ice-bath not to exceed 30° C. The ice-bath was changed to a water-bath, and the mixture was stirred for 17 hr. Then, the water-bath was removed and the mixture was further stirred for 4 hr. The reaction mixture was ice-cooled, 2N hydrochloric acid was added and the mixture was stirred. To this mixture were added ethyl acetate and water, and the mixture was partitioned in a separatory funnel. The aqueous layer was further extracted with ethyl acetate, and the extract was combined with the organic layer obtained earlier. The organic layer was successively washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent: chloroform/methanol=30/1 to 15/1) to give the title compound (7.38 g, 84%).

reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | sodium borohydride | 16.2 g | [BH4-].[Na+]
reactant | ethyl 2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-3-oxo-propionate | 13.2 g | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(C(=O)OCC)C=O)(C(F)(F)F)O | C22H16F4N2O4
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (+)-2-[4-(2-fluoro-9-hydroxy-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propane-1,3-diol | 7.38 g, 84% | FC1=CC=2C(C3=CC=CC=C3C2C(=C1)C=1C=NN(C1)C(CO)CO)(C(F)(F)F)O | C20H16F4N2O3
